US04203987
2,3,4,4a-Tetrahydro-3-[2-(2-Pyridinyl)Ethyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One
2,3,4,4a-Tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one (7 g.) and 2-vinylpyridine (12 g.) in 150 ml. of methanol containing 5 ml. glacial acetic acid were heated under reflux for 24 hours. After removing solvent under reduced pressure, the residue was slurried with water and the insoluble material filtered off and washed with water. After drying there was obtained 9.3 g. of the title compound. A portion recrystallized from ethanol gave a m.p. of 167°-69° C.

reactant | 2,3,4,4a-Tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one | 7 g | C1CNCC2N1C1=CC=CC=C1NC2=O | C11H13N3O
reactant | 2-vinylpyridine | 12 g | C(=C)C1=NC=CC=C1 | C7H7N
reactant | methanol | 5 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,3,4,4a-Tetrahydro-3-[2-(2-Pyridinyl)Ethyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One | N1=C(C=CC=C1)CCN1CC2N(C3=CC=CC=C3NC2=O)CC1 | C18H20N4O
